US08735385B2
2-{4-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-2-fluoro-phenyl}-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester
4-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-2-fluoro-phenylamine (520 mg, 1.7 mmol, 1 equiv) was dissolved in DCE (15 mL). To this solution was transferred a solution of 4-(2-oxo-ethyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (598 mg, 2.07 mmol, 1 equiv.) in DCE (5 mL). To this clear solution was then added acetic acid (372 mg, 6.21 mmol, 3 equiv) in DCM (2 mL), followed by addition of powder NaBH(OAc)3 (1.31 g, 6.2 mmol, 3 equiv.) in one portion under N2 at rt. The yellowish milky solution was stirred at rt overnight. The reaction was diluted with DCM (10 mL) and quenched with 10 mL of aqueous NaHCO3. The two layers were separated, and the aqueous layer was extracted with DCM (10 mL×2). The combined DCM extracts were washed with sodium bicarbonate (10 mL), brine (15 mL), dried (anhydrous potassium carbonate), filtered, and concentrated to obtain the title compound as a liquid and was used in next step without further purification.

reactant | 4-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-2-fluoro-phenylamine | 1.7 mmol, 520 mg, 1 equiv | C(C)(C)(C)[Si](OC1CCC(CC1)C1=CC(=C(C=C1)N)F)(C)C | C18H30FNOSi
reactant | 4-(2-oxo-ethyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 2.07 mmol, 598 mg, 1 equiv. | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC=O | C15H25NO5
reactant | acetic acid | 6.21 mmol, 372 mg, 3 equiv | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 6.2 mmol, 1.31 g, 3 equiv. | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 15 mL | ClCCCl | C2H4Cl2
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-{4-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-2-fluoro-phenyl}-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CCN(C2=O)C2=C(C=C(C=C2)C2CCC(CC2)O[Si](C)(C)C(C)(C)C)F)CC1 | C31H49FN2O4Si
